US09315521B2
6-methyl-2-{[(1-methyl-1H-imidazol-4-yl)methyl]sulfanyl}pyrimidin-4-ol
This example was synthesized from 4-(chloromethyl)-1-methyl-1H-imidazole and 6-methyl-2-sulfanylpyrimidin-4-ol following the general procedure as shown in the last step of Example 109. This provided the title compound as a white solid (260 mg, 60% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.19 (s, 3H), 3.60 (s, 3H), 4.24 (s, 2H), 5.97 (bs, 1H), 7.06 (s, 1H), 7.52 (s, 1H); M+237.

reactant | 4-(chloromethyl)-1-methyl-1H-imidazole | ClCC=1N=CN(C1)C | C5H7ClN2
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
product | 6-methyl-2-{[(1-methyl-1H-imidazol-4-yl)methyl]sulfanyl}pyrimidin-4-ol | 260 mg, 60% yield | CC1=CC(=NC(=N1)SCC=1N=CN(C1)C)O | C10H12N4OS
